US08304514B2
First, 76.20 mmol of Bis-(4-(2,4,4-trimethylpentan-2-yl)phenyl)amine, 91.45 mmol of 4-Fluoronitrobenzene, 114.31 mmol of sodium hydride, 2.74 g of NaH, and 120 ml of dimethyl sulfoxide (DMSO) were added into a bottle. After stirring at 120° C. for 48 hrs, the reaction mixture was cooled and then poured into 1 L of methanol. The yellow precipitate was collected by filtration and dried under vacuum. The product was purified by silica gel column chromatography (dichloromethane:n-hexane=1:3) and recrystallized from ethyl acetate to afford 4-nitro-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline as a yellow crystal with a yield of 60%. The 4-nitro-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline had a melt point of 167° C. The synthesis pathway was as follows:

reactant | Bis-(4-(2,4,4-trimethylpentan-2-yl)phenyl)amine | 76.20 mmol | CC(C)(CC(C)(C)C)C1=CC=C(C=C1)NC1=CC=C(C=C1)C(C)(CC(C)(C)C)C | C28H43N
reactant | 4-Fluoronitrobenzene | 91.45 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium hydride | 114.31 mmol | [H-].[Na+]
reactant | NaH | 2.74 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
solvent | methanol | 1 L | CO | CH4O
product | 4-nitro-N,N-bis(4-(2,4,4-trimethylpentan-2-yl)phenyl)aniline | yield of 60% | [N+](=O)([O-])C1=CC=C(N(C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C2=CC=C(C=C2)C(C)(CC(C)(C)C)C)C=C1 | C34H46N2O2
